US06521643B1
A solution of 3-(3-methoxypyridin-2-yl)nitrobenzene (0.5 g) in 47% hydrobromic acid (10 ml) was stirred at 130° C. for 24 hours. After cooling, the precipitate was collected by filtration, washed with water and acetone and dried to give 3-(3-hydroxypyridin-2-yl)-nitrobenzene hydrobromide (0.54 g).

reactant | 3-(3-methoxypyridin-2-yl)nitrobenzene | 0.5 g | COC=1C(=NC=CC1)C=1C=C(C=CC1)[N+](=O)[O-] | C12H10N2O3
reactant | hydrobromic acid | 10 ml | Br | BrH
product | 3-(3-hydroxypyridin-2-yl)-nitrobenzene hydrobromide | 0.54 g | Br.OC=1C(=NC=CC1)C=1C=C(C=CC1)[N+](=O)[O-] | InChI=1S/C11H8N2O3.BrH/c14-10-5-2-6-12-11(10)8-3-1-4-9(7-8)13(15)16;/h1-7,14H;1H
